US05360819
p-Propoxy-tetrafluorobenzyl bromide, 58
This compound can be prepared by reacting pentafluorotoluene with propanol and sodium hydroxide in water, as described for the preparation of compound 37, followed by bromination with N-bromosuccinimide.

reactant | pentafluorotoluene | FC1=C(C(=C(C(=C1C)F)F)F)F | C7H3F5
reactant | propanol | C(CC)O | C3H8O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | water | O | H2O
product | p-Propoxy-tetrafluorobenzyl bromide | C(CC)OC1=C(C(=C(CBr)C(=C1F)F)F)F | C10H9BrF4O
